US08138197B2
Production of 1′-{[3-Ethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-6(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one
Triethylamine (136 μL, 0.97 mol), 1-hydroxybenzotriazole hydrate (99.0 mg, 0.73 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (140 mg, 0.73 mol) were added to an N,N-dimethylformamide solution (4.0 mL) of 3-ethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid (120 mg, 0.49 mmol) and 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride (204 mg, 0.63 mol), and then stirred at 90° C. for 30 minutes. The reaction liquid was cooled to room temperature, and water was added thereto. The formed solid was taken out through filtration, and dried overnight at 75° C. under reduced pressure to obtain the title compound as a white solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.41 (1H, d, J=2.2 Hz), 8.23 (1H, dd, J=8.5, 2.2 Hz), 8.12 (1H, s), 7.93 (1H, br s), 7.63 (1H, d, J=8.0 Hz), 7.32 (1H, d, J=8.8 Hz), 7.03 (1H, br s), 6.97 (1H, dd, J=7.9, 1.6 Hz), 4.14 (2H, q, J=6.9 Hz), 3.87 (3H, s), 3.31-3.28 (4H, m), 2.97 (2H, s), 1.92-1.79 (4H, m), 1.43 (3H, t, J=7.0 Hz). MS [M+H]+=514.

reactant | Triethylamine | 0.97 mol, 136 μL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 0.73 mmol, 99.0 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.73 mol, 140 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-ethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid | 0.49 mmol, 120 mg | C(C)OC=1C=C(C(=O)O)C=CC1C=1C=NN(C1)C | C13H14N2O3
reactant | 6-(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 0.63 mol, 204 mg | Cl.N1N=NN=C1C=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 1′-{[3-Ethoxy-4-(1-methyl-1H-pyrazol-4-yl)phenyl]carbonyl}-6(tetrazol-5-yl)spiro[chroman-2,4′-piperidin]-4-one | C(C)OC=1C=C(C=CC1C=1C=NN(C1)C)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C2=NN=NN2 | C27H27N7O4
